US05643914
1G 2-(E-2-Carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-chloromethylpyridine hydrochloride
2-(E-2-Carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-hydroxymethylpyridine (1.00 g, 2.69 mmol) was added to a cooled (0° C.) solution of SOCl2 (1.96 mL, 26.9 mmol) in anhydrous toluene (20 mL) under an argon atmosphere. The cooling bath was removed and the reaction was stirred at room temperature for 4.5 h. The solvent and excess SOCl2 were evaporated. The resulting crude product (tan solid) was used without further purification. This material served as the starting material for the preparation of the compounds set out in the following examples.

reactant | 2-(E-2-Carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-hydroxymethylpyridine | 2.69 mmol, 1.00 g | C(=O)(O)C/C=C/C1=NC(=CC=C1OCCCCC1=CC=C(C=C1)OC)CO | C21H25NO5
reactant | SOCl2 | 26.9 mmol, 1.96 mL | O=S(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(E-2-Carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-chloromethylpyridine hydrochloride | Cl.C(=O)(O)C/C=C/C1=NC(=CC=C1OCCCCC1=CC=C(C=C1)OC)CCl | InChI=1S/C21H24ClNO4.ClH/c1-26-18-11-8-16(9-12-18)5-2-3-14-27-20-13-10-17(15-22)23-19(20)6-4-7-21(24)25;/h4,6,8-13H,2-3,5,7,14-15H2,1H3,(H,24,25);1H/b6-4+;
